US07935716B2
Under ice cooling, 568 mg of sodium hydride (60%) was added to a mixture of 181 mg of dimethyl malonate and 70 ml of N,N-dimethylformamide and the mixture was stirred for 20 minutes. After the mixture was heated to 80° C., 1.50 g of 3-methyl-2H-1,3-oxazine-2,6(3H)-dione was added to the mixture, followed by further stirring at 120° C. for 7 hours. The reaction mixture was concentrated under reduced pressure, 2 mol/L hydrochloric acid was added to the residue, and the mixture was stirred at 60° C. for 15 minutes. The mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium chloride solution, dried with sodium sulfate, filtered, and concentrated. The residue was subjected to silica gel column chromatography (eluent: ethyl acetate) to obtain 100 mg of methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate represented by the formula:

reactant | sodium hydride | 568 mg | [H-].[Na+]
reactant | dimethyl malonate | 181 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-methyl-2H-1,3-oxazine-2,6(3H)-dione | 1.50 g | CN1C(OC(C=C1)=O)=O | C5H5NO3
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 100 mg | OC1=C(C(N(C=C1)C)=O)C(=O)OC | C8H9NO4
